US07214673B2
2-Methyl-5-(2-nitro-phenylamino)-thiazole-4-carbonitrile
Combine 2-methyl-5-(2-nitroanilino)thiazole-4-carboxylic acid amide (60 g, 215 mmol) and toluene and add POCl3 (40 mL, 430 mmol) and reflux the reaction mixture. After 2.5 h cool to 0° C. Add saturated NaHCO3 solution to quench the extra POCl3 (Caution!!) until the aqueous was around pH 8. Add ethyl acetate (2×2 L) to extract the product. Combined organic layer and wash with brine (2×1 L), dry over MgSO4, and evaporate to give a reddish solid which triturated with 25% ethyl acetate in hexane to give a reddish solid (36 g). Evaporate the filtrate to half volume to give second batch of compound (3.2 g). Total yield (39.2 g, 70%): mass spectrum (m/e): 261 (M+1); 1HNMR(300 MHz, DMSO, ppm): 2.70 (s, 1H), 7.02 (t, 1H), 7.22 (d, 1H), 7.58 (t, 1H), 8.25 (d, 1H), 9.78 (s, 1H). ). 13CNMR(75MHz, DMSO, ppm): 20.4, 113.1, 116.2, 118.7, 121.2 127.0, 134.9, 136.6, 140.0, 148.6, 161.5. Formula: C11H8N4O2S

reactant | 2-methyl-5-(2-nitroanilino)thiazole-4-carboxylic acid amide | 215 mmol, 60 g | CC=1SC(=C(N1)C(=O)N)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H10N4O3S
reactant | POCl3 | 430 mmol, 40 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-5-(2-nitro-phenylamino)-thiazole-4-carbonitrile | 36 g | CC=1SC(=C(N1)C#N)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H8N4O2S
